US07429579B2
3-Trifluoracetyl-7-(5-methyl-isoxazol-3-yl)-2,3,4,5-tetrahydro-1H-3-benzazepine
To a solution of 3-Trifluoracetyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-carbaldehyde oxime (17.2 g) in chloroform (700 ml) was added N-bromosuccinimide (11.8 g), portionwise over 5 min., and the mixture stirred for 1.5 h. 2-Chloropropene (30.3 ml) was added and the reaction cooled to −20° C. Triethylamine (25.1 ml) in chloroform was added over 10 min. and the reaction stirred at room temperature for 18 h. The solution was washed with 2M HCl, dried and evaporated and the residue chromatographed on Si gel, gradient eluting with 10-20% EtOAc in hexane to give the title compound (7.1 g) as a yellow oil.

reactant | 3-Trifluoracetyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-carbaldehyde oxime | 17.2 g | FC(C(=O)N1CCC2=C(CC1)C=CC(=C2)C=NO)(F)F | C13H13F3N2O2
reactant | N-bromosuccinimide | 11.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-Chloropropene | 30.3 ml | ClC(=C)C | C3H5Cl
reactant | Triethylamine | 25.1 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 700 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Trifluoracetyl-7-(5-methyl-isoxazol-3-yl)-2,3,4,5-tetrahydro-1H-3-benzazepine | 7.1 g | FC(C(=O)N1CCC2=C(CC1)C=CC(=C2)C2=NOC(=C2)C)(F)F | C16H15F3N2O2
